US07598391B2
Trans-3-(4-{2-[3-cycloheptyl-3-(4-methyl-cyclohexyl)-ureido]-thiazol-5-ylmethyl}-piperazine-1-sulfonyl)-propionic acid methyl ester
Prepared in 65% (380 mg) yield as described in general procedure (B) from trans-1-cycloheptyl-3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-urea (364 mg, 1.0 mmol) and 4-(2-methoxycarbonyl-ethanesulfonyl)-piperazin-1-ium chloride (273 mg, 1 mmol).

reactant | trans-1-cycloheptyl-3-(5-formyl-thiazol-2-yl)-1-(4-methyl-cyclohexyl)-urea | 1.0 mmol, 364 mg | C1(CCCCCC1)N(C(=O)NC=1SC(=CN1)C=O)[C@@H]1CC[C@H](CC1)C | C19H29N3O2S
reactant | 4-(2-methoxycarbonyl-ethanesulfonyl)-piperazin-1-ium chloride | 1 mmol, 273 mg | [Cl-].COC(=O)CCS(=O)(=O)N1CC[NH2+]CC1
product | Trans-3-(4-{2-[3-cycloheptyl-3-(4-methyl-cyclohexyl)-ureido]-thiazol-5-ylmethyl}-piperazine-1-sulfonyl)-propionic acid methyl ester | COC(CCS(=O)(=O)N1CCN(CC1)CC1=CN=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)C)C1CCCCCC1)=O | C27H45N5O5S2
